### PR TITLE
feat(ModularForms): S/T slash actions for theta error terms (Phases 1-5)

### PR DESCRIPTION
**Pull request by cameronfreer**
## Summary

Extracts Phase 1-5 of the theta derivative identities proof from #259 into a standalone file `ThetaDerivSlashActions.lean`. This provides the foundation for proving the Serre derivative identities for Jacobi theta functions H₂, H₃, H₄ (Blueprint Proposition 6.52).

### PR Chain

This PR (#262) → PR #263 → PR #259

In parallel: #248 fills two sorries of #259

| PR | Content | Dependencies |
|----|---------|--------------
| **#262 (this)** | Phases 1-5: error terms f₂, f₃, f₄ and S/T slash actions | None |
| #263 | Phase 6: theta_g, theta_h level-1 invariants | #262 |
| #259 | Phases 7-10: cusp forms, dimension vanishing, main theorems | #262, #263 |
| #248 | Provides 2 asymptotic lemmas used by #259 (sorries until merged) | Independent |

### Contents

**Error Terms (pointfree definitions):**
- `f₂ = serre_D 2 H₂ - (1/6) • (H₂ * (H₂ + 2 • H₄))`
- `f₃ = serre_D 2 H₃ - (1/6) • (H₂ ^ 2 - H₄ ^ 2)`
- `f₄ = serre_D 2 H₄ + (1/6) • (H₄ * (2 • H₂ + H₄))`

**Key Results:**

| Lemma | Description |
|-------|-------------|
| `f₂_add_f₄_eq_f₃` | Jacobi identity: f₂ + f₄ = f₃ |
| `f₂_S_action` | f₂\|S = -f₄ |
| `f₂_T_action` | f₂\|T = -f₂ |
| `f₄_S_action` | f₄\|S = -f₂ |
| `f₄_T_action` | f₄\|T = f₃ |

### Technical Approach

The S/T transformation rules are derived using:
1. `serre_D_slash_equivariant`: (serre_D k F)|[k+2]γ = serre_D k (F|[k]γ)
2. H₂/H₃/H₄ S-action and T-action from JacobiTheta.lean
3. `mul_slash_SL2` for products: (f·g)|[k₁+k₂]A = (f|[k₁]A)·(g|[k₂]A)

### Review Changes

Addressed all review comments:
- Removed redundant `MDifferentiable` aliases (use `H₂_SIF_MDifferentiable` directly)
- Changed `f₂_add_f₄_eq_f₃` to pointfree signature with `ext z`
- Inlined and removed auxiliary lemmas (`add_smul_slash`, `prod_slash_weight_4`, `serre_D_neg`)
- Use `H₂_S_action` etc. directly instead of intermediate `have` statements
- Removed unused local notations
- Simplified f₂, f₃, f₄ definitions to pointfree style
- Golfed proofs using `sq_sub_sq` and simplified `simp` calls

🤖 Generated with [Claude Code](https://claude.com/claude-code)

### CODE REVIEW

File: SpherePacking/ModularForms/ThetaDerivSlashActions.lean [hunk 1]
```diff
@@ -0,0 +1,359 @@
...
+lemma f₄_decompose :
+    f₄ = serre_D (2 : ℤ) H₄ + ((1/6 : ℂ) • fun z => H₄ z * (2 * H₂ z + H₄ z)) := by
+  funext z; simp only [f₄, Pi.add_apply, Pi.smul_apply, smul_eq_mul]; ring_nf
+
+/-!
+## Phase 2: MDifferentiable for Error Terms
+-/
+
+/-- H₂ is MDifferentiable (extract from SIF) -/
+lemma H₂_MDifferentiable : MDifferentiable 𝓘(ℂ) 𝓘(ℂ) H₂ := H₂_SIF_MDifferentiable
```
Comment (seewoo5) [inline SpherePacking/ModularForms/ThetaDerivSlashActions.lean]: I think we don't need to redefined this; simply use `H₂_SIF_MDifferentiable`.

File: SpherePacking/ModularForms/ThetaDerivSlashActions.lean [hunk 2]
```diff
@@ -0,0 +1,359 @@
...
+/-- Jacobi identity: H₂ + H₄ = H₃ -/
+-- This follows from jacobi_identity in JacobiTheta.lean (which has a sorry)
+lemma jacobi_identity' (z : ℍ) : H₂ z + H₄ z = H₃ z := by
+  have h := jacobi_identity z
+  -- jacobi_identity says Θ₂^4 + Θ₄^4 = Θ₃^4, which is exactly H₂ + H₄ = H₃
+  simp only [H₂, H₃, H₄] at h ⊢
+  exact h
+
+/-- The error terms satisfy f₂ + f₄ = f₃ (from Jacobi identity) -/
+lemma f₂_add_f₄_eq_f₃ : ∀ z, f₂ z + f₄ z = f₃ z := by
```
Comment (seewoo5) [inline SpherePacking/ModularForms/ThetaDerivSlashActions.lean]: Maybe `f₂ + f₄ = f₃` and use `ext z` in proof will be a better? It is not super important since only the final theorem (Serre derivative of $H_i$'s) matter, but just for consistency.

File: SpherePacking/ModularForms/ThetaDerivSlashActions.lean [hunk 3]
```diff
@@ -0,0 +1,359 @@
...
+/-- Product of weight-2 functions has weight-4 slash action -/
+lemma prod_slash_weight_4 (M : SL(2, ℤ)) (f g : ℍ → ℂ) :
+    (f * g) ∣[(4 : ℤ)] M = (f ∣[(2 : ℤ)] M) * (g ∣[(2 : ℤ)] M) := by
+  have h4 : (4 : ℤ) = 2 + 2 := by norm_num
+  rw [h4, mul_slash_SL2 2 2 M f g]
+
+/-- serre_D k (-F) = -serre_D k F (linearity) -/
+lemma serre_D_neg (k : ℤ) (F : ℍ → ℂ) (hF : MDifferentiable 𝓘(ℂ) 𝓘(ℂ) F) :
+    serre_D k (-F) = -serre_D k F := by
+  funext z; simpa using serre_D_smul k (-1) F hF z
```
Comment (seewoo5) [inline SpherePacking/ModularForms/ThetaDerivSlashActions.lean]: I'm not sure if we need all these auxiliary lemmas; if they are really helpful (e.g. avoid to prove this multiple times later) then it may better to put somewhere else, such as `SlashActionAuxil.lean` for the first two and `Derivative.lean` for the last.

File: SpherePacking/ModularForms/ThetaDerivSlashActions.lean [hunk 4]
```diff
@@ -0,0 +1,359 @@
...
+3. f₂|[4]S = -serre_D 2 H₄ - (1/6)H₄(H₄ + 2H₂) = -f₄
+
+Key lemmas used:
+- serre_D_slash_equivariant: (serre_D k F)|[k+2]γ = serre_D k (F|[k]γ)
+- serre_D_neg: serre_D k (-F) = -serre_D k F
+- mul_slash_SL2: (f * g)|[k1+k2]A = (f|[k1]A) * (g|[k2]A)
+- SlashAction.add_slash, smul_slash for linearity -/
+lemma f₂_S_action : (f₂ ∣[(4 : ℤ)] S) = -f₄ := by
+  have h_neg_H₄ : (H₂ ∣[(2 : ℤ)] S) = -H₄ := H₂_S_action
+  have h_neg_H₂ : (H₄ ∣[(2 : ℤ)] S) = -H₂ := H₄_S_action
```
Comment (seewoo5) [inline SpherePacking/ModularForms/ThetaDerivSlashActions.lean]: Probably we can directly use `H₂_S_action` and `H₄_S_action` directly in the intermediate steps below? Similar for the proofs of similar theorems.

File: SpherePacking/ModularForms/ThetaDerivSlashActions.lean [hunk 5]
```diff
@@ -0,0 +1,359 @@
...
+These transformation rules are used in subsequent files to construct level-1 invariants
+and prove the error terms vanish.
+-/
+
+open UpperHalfPlane hiding I
+open Complex Real Asymptotics Filter Topology Manifold SlashInvariantForm Matrix ModularGroup
+  ModularForm SlashAction MatrixGroups
+
+local notation "GL(" n ", " R ")" "⁺" => Matrix.GLPos (Fin n) R
+local notation "Γ " n:100 => CongruenceSubgroup.Gamma n
```
Comment (seewoo5) [inline SpherePacking/ModularForms/ThetaDerivSlashActions.lean]: I'm not sure but these may not be necessary assuming that you `open` the right thing (which already exists somewhere; maybe `open scoped`?)

File: SpherePacking/ModularForms/ThetaDerivSlashActions.lean [hunk 6]
```diff
@@ -0,0 +1,359 @@
...
+
+/-!
+## Phase 1: Error Term Definitions
+-/
+
+/-- Error term for the ∂₂H₂ identity: f₂ = ∂₂H₂ - (1/6)(H₂² + 2H₂H₄) -/
+noncomputable def f₂ : ℍ → ℂ := fun z =>
+  serre_D 2 H₂ z - (1/6 : ℂ) * (H₂ z * (H₂ z + 2 * H₄ z))
```
Comment (seewoo5) [inline SpherePacking/ModularForms/ThetaDerivSlashActions.lean]: Maybe I'm missing something but can't we just do `serre_D 2 H₂ - (1/6) * H₂ * (H₂ + 2 * H₄)`?

File: SpherePacking/ModularForms/ThetaDerivSlashActions.lean (hunk 1 above)
Comment (cameronfreer) [reply SpherePacking/ModularForms/ThetaDerivSlashActions.lean]: Thanks -- I removed the aliases and now use `H₂_SIF_MDifferentiable` etc. directly in aaadacab500d2dc7d87fa72794fe20b9ffe4783f

File: SpherePacking/ModularForms/ThetaDerivSlashActions.lean (hunk 2 above)
Comment (cameronfreer) [reply SpherePacking/ModularForms/ThetaDerivSlashActions.lean]: Thanks -- changed to pointfree signature with `ext z` in 9b5e4b1a6b8014a8e5ae83888c2795900df37569

File: SpherePacking/ModularForms/ThetaDerivSlashActions.lean (hunk 3 above)
Comment (cameronfreer) [reply SpherePacking/ModularForms/ThetaDerivSlashActions.lean]: They were used a few places, but only in this file, and it wasn't too badd to inline their uses and remove them; see 962470cc843f7da5d5d054fbedb5e11265a05987

File: SpherePacking/ModularForms/ThetaDerivSlashActions.lean (hunk 4 above)
Comment (cameronfreer) [reply SpherePacking/ModularForms/ThetaDerivSlashActions.lean]: Thanks, I've removed the intermediate `have` statements in e4f4ac03b8a906f1d844c36bc0d971e1cb758b80

File: SpherePacking/ModularForms/ThetaDerivSlashActions.lean (hunk 6 above)
Comment (cameronfreer) [reply SpherePacking/ModularForms/ThetaDerivSlashActions.lean]: Thanks -- I changed it to pointfree using `smul` to avoid coercion ambiguities in d8a59becb24bea63167c7d1b163f70f34de04759

File: SpherePacking/ModularForms/ThetaDerivSlashActions.lean (hunk 5 above)
Comment (cameronfreer) [reply SpherePacking/ModularForms/ThetaDerivSlashActions.lean]: Good catch, thanks -- I think `ThetaDerivSlashActions.lean` didn't use `GL(...)⁺` or `Γ n` anywhere, and so we don't need to add any open scoped; see 78afa1e414de40ca1038083d746b2ff1ff314ea6

**Review by seewoo5 — COMMENTED** [review]
I realized the original `jacobi_identity` in `JacobiTheta.lean` is not point free, which I think point-free version is better. If possible, could you do this when you prove Jacobi identity later (if you are planning to)? I'll merge this PR for now.
